US07141351B2
In a nitrogen atmosphere, a mixture of 68.0 g of imidazole, 318 g of 2-[2-(2-methoxyethoxy)ethoxy]ethyl p-toluenesulfonate, 276 g of potassium carbonate, and 1,000 g of N,N-dimethylformamide was heated and stirred at 100° C. for 16 hours. To the reaction solution was added ethyl acetate. The precipitate was filtered off, after which the solvent was distilled off in vacuo. The residue was purified by distillation in vacuo, obtaining 163 g of 1-[2-[2-(2-methoxyethoxy)ethoxy]ethyl]-1H-imidazole (boiling point 121° C./16 Pa, yield 76%).

reactant | imidazole | 68.0 g | N1C=NC=C1 | C3H4N2
reactant | 2-[2-(2-methoxyethoxy)ethoxy]ethyl p-toluenesulfonate | 318 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOCCOCCOC)C | C14H22O6S
reactant | potassium carbonate | 276 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 1,000 g | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2-[2-(2-methoxyethoxy)ethoxy]ethyl]-1H-imidazole | 163 g, yield 76% | COCCOCCOCCN1C=NC=C1 | C10H18N2O3
